US05942617
Four milliliters of N,N-dimethylformamide and 0.53 ml (2.49 equivalents) of benzyl chloride were added to 0.758 g (1.85 mmols) of triacetylguanosine, and the reaction was conducted at 60° C. for 22 hours. It was identified through liquid chromatography that 69% of the starting material remained. Accordingly, 1.60 ml (10 equivalents in total) of benzyl chloride were further added thereto, and the reaction was conducted at 60° C. for 23 hours and at 70° C. for 5 hours. The temperature was returned to room temperature, and 1.57 ml (10 equivalents) of conc. hydrochloric acid were added to the solution. The reaction was conducted for 2 hours, but the cleavage of the sugar moiety was not completed. Therefore, 1.58 ml (20 equivalents in total) of conc. hydrochloric acid were further added, and the mixture was stirred overnight at room temperature. Ten milliliters of methanol were added to the reaction solution in the slurry state. The mixture was stirred for 2 hours, and then filtered. The crystals were washed twice with 5 ml of methanol, dried at 50° C. under reduced pressure for 5 hours to give 0.444 g of 7-benzylguanine crystals in a yield of 76.4%.

reactant | N,N-dimethylformamide | Four milliliters | CN(C=O)C | C3H7NO
reactant | benzyl chloride | 0.53 ml, 2.49 equivalents | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triacetylguanosine | 1.85 mmols, 0.758 g | C(C)(=O)[C@@]1([C@]([C@@](O[C@@H]1CO)(N1C=NC=2C(=O)NC(N)=NC12)C(C)=O)(O)C(C)=O)O | C16H19N5O8
reactant | benzyl chloride | 1.60 ml, 10 equivalents | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | 1.57 ml, 10 equivalents | Cl | ClH
reactant | hydrochloric acid | 1.58 ml, 20 equivalents | Cl | ClH
solvent | methanol | Ten milliliters | CO | CH4O
product | 7-benzylguanine | 0.444 g, yield of 76.4% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N | C12H11N5O
